US07276511B2
Synthesis of tert-butyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)(4-penten-2-yl)]methylcarbamate
1-Hydroxybenzotriazole monohydrate (11.5 g) was dissolved in anhydrous tetrahydrofuran (0.8 L). At room temperature, 3,3,3-trifluoropropionic acid (120.3 g) was added thereto. Under cooling with ice, 1-[3-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (180.0 g) was added to the mixture, and the resultant mixture was stirred for 10 minutes at the same temperature. A solution of tert-butyl[2-(S)-(3,4-dichlorophenyl)-1-methylamino(4-penten-2-yl)]methylcarbamate (318.8 g) in anhydrous tetrahydrofuran (0.9 L) was added thereto, and the mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into water, extracted with ethyl acetate, sequentially washed with water, aqueous citric acid, saturated aqueous sodium bicarbonate, and saturated brine, and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=6:1 to 5:1 to 2:1 to 1:1), to thereby give the title compound (275.7 g, 69.7%, 5 steps).

reactant | 1-Hydroxybenzotriazole monohydrate | 11.5 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3,3,3-trifluoropropionic acid | 120.3 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | tert-butyl[2-(S)-(3,4-dichlorophenyl)-1-methylamino(4-penten-2-yl)]methylcarbamate | 318.8 g | C(C)(C)(C)OC(N(C)[C@@](CNC)(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C18H26Cl2N2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 0.8 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.9 L | O1CCCC1 | C4H8O
product | tert-butyl[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)(4-penten-2-yl)]methylcarbamate | 275.7 g, 69.7% | C(C)(C)(C)OC(N(C)[C@@](CN(C(CC(F)(F)F)=O)C)(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C21H27Cl2F3N2O3
